US08497371B2
2-(4-{[(2-chlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (17)
Pipemidic acid (56 mg, 0.184 mmol) and 2-chlorophenylisothiocyanate (20 μL, 0.153 mmol) were used. Purification on silica yielded compound 17 in Table 1, below (72 mg, 99%). 1H NMR (300 MHz, CDCl3) δ 9.34 (s, 1H), 8.68 (s, 1H), 7.75 (d, J=8.10 Hz, 1H), 7.44 (d, J=8.00 Hz, 1H), 7.37-7.27 (m, 2H), 7.15 (t, J=7.67 Hz, 1H), 4.35 (q, J=7.15 Hz, 2H), 4.29-4.01 (m, 8H), 1.50 (t, J=7.20 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.184 mmol, 56 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2-chlorophenylisothiocyanate | 0.153 mmol, 20 μL | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
product | 2-(4-{[(2-chlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | ClC1=C(C=CC=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21ClN6O3S
